US08076516B2
Deprotection of 2,2,2-trifluoro-N-(3-hydroxy-3-(3-((2-hydroxycyclohexyl)ethynyl)phenyl)propyl)acetamide followed by flash chromatography (10% (7N NH3/MeOH)/dichloromethane) gave 2-((3-(3-amino-1-hydroxypropyl)phenyl)ethynyl)cyclohexanol as a light yellow glassy solid. Yield (0.402 g, 29%): 1H NMR (400 MHz, CDCl3) δ7.44-7.46 (m, 1H), 7.21-7.31 (m, 3H), 4.92 (dd, J=8.8, 3.2 Hz, 1H), 3.47-3.56 (m, 1H), 3.05-3.12 (m, 1H), 3.01 (brs, 4H), 2.90-2.99 (m, 1H), 2.37-2.44 (m, 1H), 2.00-2.09 (m, 2H), 1.81-1.90 (m, 1H), 1.64-1.81 (m, 3H), 1.40-1.52 (m, 1H), 1.14-1.40 (m, 3H).

reactant | 2,2,2-trifluoro-N-(3-hydroxy-3-(3-((2-hydroxycyclohexyl)ethynyl)phenyl)propyl)acetamide | FC(C(=O)NCCC(C1=CC(=CC=C1)C#CC1C(CCCC1)O)O)(F)F | C19H22F3NO3
reactant | NH3 MeOH | 7N | N.CO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-((3-(3-amino-1-hydroxypropyl)phenyl)ethynyl)cyclohexanol | NCCC(O)C=1C=C(C=CC1)C#CC1C(CCCC1)O | C17H23NO2
